US06809108B1
(3R)-1,1-diallyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)piperidinium bromide
The title compound was prepared by a method similar to Example 128, using (2R)-N-{((3R)-1-allyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-pyrrolidine-2-carboxamide and allyl bromide. The compound was obtained as a white foamy substance.

reactant | (2R)-N-{((3R)-1-allyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-pyrrolidine-2-carboxamide | C(C=C)N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H48N4O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | (3R)-1,1-diallyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)piperidinium bromide | [Br-].C(C=C)[N+]1(C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC=C | InChI=1S/C43H52N4O4.BrH/c1-3-25-47(26-4-2)27-15-16-33(32-47)30-44-41(50)38-23-14-24-45(38)42(51)39-28-37(48)31-46(39)40(49)29-43(34-17-8-5-9-18-34,35-19-10-6-11-20-35)36-21-12-7-13-22-36;/h3-13,17-22,33,37-39,48H,1-2,14-16,23-32H2;1H/t33-,37-,38-,39+;/m1./s1
